US07361682B2
b) Step 2: morpholin-4-yl-[5-(3-piperidin-1-yl-propoxy)-1H-indol-2-yl]-methanone
A mixture of 246 mg (1 mmol) (5-hydroxy-1H-indol-2-yl)-morpholin-4-yl-methanone, 1 g (ca. 3 mmol) polymerbound triphenylphospine (Fluka), 179 mg (1.25 mmol) piperidinepropanol and 461 mg (2 mmol) di-tert.-butyl azadicarboxylate in 20 ml THF was stirred for a prolonged period of time at room temperature. The mixture was filtered through a pad of silica and washed with 30 ml THF. The mixture was evaporated to dryness and purified on silica eluting with a gradient of DCM/2N NH3 in methanol 98/2 to DCM/2N NH3 in methanol 9/1. The product fractions were evaporated and the residue was titurated with diethyl ether to yield after drying at 40° C. under vacuum 47 mg (13%) of the title compound as white solid. MS (m/e): 372.4 (MH+, 100%).

reactant | (5-hydroxy-1H-indol-2-yl)-morpholin-4-yl-methanone | 1 mmol, 246 mg | OC=1C=C2C=C(NC2=CC1)C(=O)N1CCOCC1 | C13H14N2O3
reactant | triphenylphospine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | piperidinepropanol | 1.25 mmol, 179 mg | N1(CCCCC1)CCCO | C8H17NO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | morpholin-4-yl-[5-(3-piperidin-1-yl-propoxy)-1H-indol-2-yl]-methanone | N1(CCOCC1)C(=O)C=1NC2=CC=C(C=C2C1)OCCCN1CCCCC1 | C21H29N3O3
